US09238655B2
tert-Butyl 2-(5-Bromo-1-methyl-2-oxo-1,2-dihydropyridin-3-ylamino)-6,7-dihydrothiazolo[5,4-c]pyridine-5 (4H)-carboxylate 233a
A 100-mL round-bottomed flask equipped with a reflux condenser was charged with tert-butyl 2-amino-6,7-dihydrothiazolo[5,4-c]pyridine-5(4H)-carboxylate (600 mg, 2.35 mmol), 3,5-dibromo-1-methylpyridin-2(1H)-one (942 mg, 3.53 mmol), Pd2(dba)3 (214 mg, 0.235 mmol), Xantphos (270.5 mg, 0.47 mmol), Cs2CO3 (1.53 g, 4.7 mmol), and dioxane (30 mL). After bubbling nitrogen through the mixture for 30 minutes, it was heated at 110° C. under N2 protection for 12 h. Analysis of reaction mixture by LCMS showed complete conversion to the desired product. The mixture was cooled to room temperature and filtered. The filtrate was concentrated under reduced pressure and the residue was washed with acetonitrile to afford 233a (600 mg, 54%) as yellow solid. MS-ESI: [M+H]+ 441.1

reactant | tert-butyl 2-amino-6,7-dihydrothiazolo[5,4-c]pyridine-5(4H)-carboxylate | 2.35 mmol, 600 mg | NC=1SC=2CN(CCC2N1)C(=O)OC(C)(C)C | C11H17N3O2S
reactant | 3,5-dibromo-1-methylpyridin-2(1H)-one | 3.53 mmol, 942 mg | BrC=1C(N(C=C(C1)Br)C)=O | C6H5Br2NO
reactant | Xantphos | 0.47 mmol, 270.5 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 4.7 mmol, 1.53 g | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.235 mmol, 214 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | tert-Butyl 2-(5-Bromo-1-methyl-2-oxo-1,2-dihydropyridin-3-ylamino)-6,7-dihydrothiazolo[5,4-c]pyridine-5 (4H)-carboxylate | BrC=1C=C(C(N(C1)C)=O)NC=1SC=2CN(CCC2N1)C(=O)OC(C)(C)C | C17H21BrN4O3S
